US07790709B2
Preparation of (E)-N-(3-Methoxy-2-propoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (3-methoxy-2-propoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (193 mg, 22%) was prepared as a white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.6 (s, 1H), 8.35 (d, J=14.1 Hz, 1H), 8.09-8.01 (m, 1H), 7.50 (dd, J=15.2, 2.5 Hz, 1H), 7.24 (d, J=15.3 Hz, 1H), 7.07-6.94 (m, 2H), 6.67-6.62 (m, 1H), 5.43 (br s, 1H), 4.79-4.64 (m, 2H), 3.87 (q, J=6.9 Hz, 2H), 3.79 (s, 3H), 3.10-2.86 (m, 5H), 2.56-2.45 (m, 2H), 1.71 (app sextet, J=7.1 Hz, 2H), 0.97 (q, J=7.3 Hz, 3H); MS (ESI) nm/e 410 (M+H)+.

reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (3-methoxy-2-propoxy-benzyl)methylamine | COC=1C(=C(CCN)C=CC1)OCCC | C12H19NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-(3-Methoxy-2-propoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide hydrochloride | 193 mg, 22% | Cl.COC=1C(=C(CN(C(\C=C\C=2C=NC=3NC(CCC3C2)=O)=O)C)C=CC1)OCCC | InChI=1S/C23H27N3O4.ClH/c1-4-12-30-22-18(6-5-7-19(22)29-3)15-26(2)21(28)11-8-16-13-17-9-10-20(27)25-23(17)24-14-16;/h5-8,11,13-14H,4,9-10,12,15H2,1-3H3,(H,24,25,27);1H/b11-8+;
